US05116861
To the solution of S-trityl-L-penicillamine (69.5 g) and di-t-butyldicarbonate (46.5 g) in dichloromethane (1500 ml), was added triethylamine (20.2 ml) at 0° C., and the mixture was stirred at room temperature for 5 hours. To the reaction mixture were added ice and an aqueous solution of potassium hydrogensulfate. The organic layer was washed with an aqueous solution of potassium hydrogensulfate, water, and saturated saline, in this order, and dried over magnesium sulfate. The solvent was evaporated off under reduced pressure, to give N-t-butoxycarbonyl-S-trityl-L-penicillamine (87.0 g).

reactant | S-trityl-L-penicillamine | 69.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC([C@H](N)C(=O)O)(C)C | C24H25NO2S
reactant | di-t-butyldicarbonate | 46.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 20.2 ml | C(C)N(CC)CC | C6H15N
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | dichloromethane | 1500 ml | ClCCl | CH2Cl2
product | N-t-butoxycarbonyl-S-trityl-L-penicillamine | 87.0 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C29H33NO4S
